US07799787B2
6-{4-[2-(Trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-sulfonamide
A mixture of 3-(methylsulfinyl)-6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine (550 mg, 1.42 mmol) in Ac2O (5 mL) and NaOAc (582 mg, 4.3 mmol) was heated at 140° C. for 2 h. The volatiles were evaporated and the residue was dissolved and re-evaporated with (3×5 mL) of benzene. The product was dried under high vacuum and dissolved in CH2Cl2/MeOH (2:1, 7 mL) followed by addition of magnesium monoperoxyphthalate (1.0 g, 1.72 mmol). The reaction mixture was stirred for 16 h after which it was filtered and the filtrate washed with saturated aqueous NaHCO3 (50 mL), dried over Na2SO4 and evaporated. The residue was dissolved in THF/MeOH (2:1, 7 mL) and treated with aqueous NaOH (1.4 mL, 1.42 mmol, 1N) and stirred for 1 h. The solvent was evaporated and the residue dissolved and re-evaporated with (2×5 mL) of EtOH and then benzene (5 mL). The mixture was dried under high vacuum, triturated with Et2O (2×5 mL). CH2Cl2 (5 mL) was added and the mixture was cooled to 0° C. SO2Cl2 (0.11 mL, 1.42 mmol) was added and the mixture was stirred at room temperature for 1 h. The mixture was then cooled to 0° C., treated with aqueous NH3 (5 mL) and warmed to room temperature. After 1 h, the mixture was diluted with water (5 mL), extracted with (3×20 mL) of EtOAc and dried over Na2SO4. Evaporation of the solvent followed by purification by Combiflash chromatography (SiO2, gradient elution 40-60% EtOAc/hexanes) afforded the desired product. 1H NMR (500 MHz, acetone-d6): δ 1.94-1.98 (m, 2H), 2.14-2.20 (m, 2H), 3.95-4.09 (m, 4H), 5.03-5.05 (m, 1H), 6.69 (s, 2H), 7.12 (t, 1H), 7.39 (d, 2H), 7.62-7.68 (m, 2H), 7.79 (d, 1H). MS (+ESI) m/z 403 (MH+).

reactant | 3-(methylsulfinyl)-6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine | 1.42 mmol, 550 mg | CS(=O)C=1N=NC(=CC1)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C17H18F3N3O2S
reactant | NaOAc | 4.3 mmol, 582 mg | CC(=O)[O-].[Na+]
reactant | magnesium monoperoxyphthalate | 1.72 mmol, 1.0 g | C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
reactant | NaOH | 1.42 mmol, 1N, 1.4 mL | [OH-].[Na+]
reactant | NH3 | 5 mL | N | H3N
solvent | Ac2O | 5 mL | CC(=O)OC(=O)C | C4H6O3
solvent | water | 5 mL | O | H2O
product | 6-{4-[2-(Trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-sulfonamide | FC(C1=C(OC2CCN(CC2)C2=CC=C(N=N2)S(=O)(=O)N)C=CC=C1)(F)F | C16H17F3N4O3S
